US07402683B2
(3S)-3-[(tert-Butoxycarbonyl)amino]-3-phenylpropionic acid
2.82 g (17 mmol) of (S)-3-amino-3-phenylpropionic acid are suspended in 60 ml of dioxane and at 0° C. 4.1 g (18.8 mmol) of di-tert-butyl dicarbonate (Boc anhydride) and 43 ml of a 1N sodium hydroxide solution in water are added. The reaction mixture is stirred at 0° C. for another 30 minutes and then at room temperature for 3 h. Subsequently the reaction mixture is concentrated and the residue is taken up in methylene chloride. The organic phase is washed with 1N hydrochloric acid and saturated sodium chloride solution, dried over magnesium sulfate and concentrated. The crude product (3.12 g) can be reacted further without additional purification.

reactant | (S)-3-amino-3-phenylpropionic acid | 17 mmol, 2.82 g | N[C@@H](CC(=O)O)C1=CC=CC=C1 | C9H11NO2
reactant | di-tert-butyl dicarbonate | 18.8 mmol, 4.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
product | (3S)-3-[(tert-Butoxycarbonyl)amino]-3-phenylpropionic acid | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)O)C1=CC=CC=C1 | C14H19NO4
